US06143764
N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N'-(2-pyridinecarbonyl)urea [240]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (75 mg) was dissolved in toluene (7 ml) with heat, after the addition of triethylamine (1.4 ml), triphosgene (201 mg) was added, and the admixture was refluxed with heat for 1 minute. 2-Pyridinecarboxamide (102 mg) was added to the reaction mixture, and the admixture was refluxed with heat for 3 hours. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 86 mg of the title compound (yield: 77%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 75 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | triphosgene | 201 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-Pyridinecarboxamide | 102 mg | N1=C(C=CC=C1)C(=O)N | C6H6N2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-N'-(2-pyridinecarbonyl)urea | 86 mg, yield: 77% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC(=O)C1=NC=CC=C1 | C24H20N4O5
